US04112095
Preparation of 3-(m-chlorobenzoyl)propionitrile
To a solution of 23.6 g. of α-(m-chlorophenyl)-4-morpholineacetonitrile in 100 ml. of tetrahydrofuran is added 120 drops of a 30% solution of KOH in methanol. To the mixture is added 4.1 ml. of acrylonitrile (temperature rose to 45° C.). After stirring 1 hr., the mixture is concentrated to dryness under vacuum. The residue is dissolved in methylene chloride and passed through a short column of hydrous magnesium silicate. The eluent is concentrated under vacuum to give 36.6 g. of a yellow oil. The oil is heated (steam bath) with a mixture of 150 ml. of acetic acid and 10 ml. of water for 1 hr. The solvent is removed under vacuum and the residue treated with water. The mixture is filtered to give 18.8 g. of crystals, m.p. 49°-51° C.

reactant | α-(m-chlorophenyl)-4-morpholineacetonitrile | ClC=1C=C(C=CC1)C(C#N)N1CCOCC1 | C12H13ClN2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | KOH | [OH-].[K+]
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(m-chlorobenzoyl)propionitrile | ClC=1C=C(C(=O)CCC#N)C=CC1 | C10H8ClNO
